US04028415
2-Acetoxy-3-dimethylamino-1,1-diphenyl-propane (200 mg) was dissolved in methanolic potassium hydroxide (5% 10 ml.) and the solution allowed to stand overnight. Solvent was evaporated and the residue dissolved in ether and water. The ether extract was dried and evaporated to give 3-dimethylamino-1,1-diphenyl-propan-2-ol (170 mg., 97%), m.p. 72° - 73°.

reactant | 2-Acetoxy-3-dimethylamino-1,1-diphenyl-propane | 200 mg | C(C)(=O)OC(C(C1=CC=CC=C1)C1=CC=CC=C1)CN(C)C | C19H23NO2
solvent | potassium hydroxide | 10 ml | [OH-].[K+]
product | 3-dimethylamino-1,1-diphenyl-propan-2-ol | 170 mg, 97% | CN(CC(C(C1=CC=CC=C1)C1=CC=CC=C1)O)C | C17H21NO
